US04221914
A mixture of 20 mmole of 5-acetoxymethyl-1-tosylimidazole and 22 mmole of triphenylphosphine in 100 ml of benzene is heated at reflux temperature for 4 days. The solid which separates on cooling is filtered, washed with benzene, dried under reduced pressure then added slowly to a solution of 20 mmole of sodium amide in 100 ml of liquid ammonia (prepared by adding 0.46 g of sodium to liquid ammonia in the presence of a catalytic amount of ferric nitrate). After stirring for 10 minutes the ammonia is evaporated under a stream of nitrogen. To the residue is added 100 ml of anhydrous benzene and the heterogeneous mixture is heated at reflux for 10 minutes. The solid residue is filtered, and to the filtrate containing salt-free 1-tosyl-5-imidazolylmethylidene triphenylphosphorane is added 5.10-2M of ethyl trifluoroacetate. The reaction mixture is heated at reflux temperature under nitrogen for 12 hours. Concentration of the solvent leaves a residue which is distilled under high vacuum to afford 2-ethoxy-1,1,1-trifluoro-3-(1-tosyl-5-imidazolyl)prop-2-ene. A solution of 3 g of 2-ethoxy-1,1,1-trifluoro-3-(1-tosyl-5-imidazolyl)prop-2-ene in 50 ml of ether is treated with a solution of 1 M of sulfuric acid in 50 ml of water. The reaction mixture is stirred for 1/2 hour at 25° C. The ether phase is separated, washed with brine, dried over magnesium sulfate and concentrated to give trifluoromethyl 1-tosylimidazol-5-ylmethyl ketone.

reactant | 2-ethoxy-1,1,1-trifluoro-3-(1-tosyl-5-imidazolyl)prop-2-ene | 3 g | C(C)OC(C(F)(F)F)=CC1=CN=CN1S(=O)(=O)C1=CC=C(C)C=C1 | C15H15F3N2O3S
reactant | sulfuric acid | 1 M | S(O)(O)(=O)=O | H2O4S
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | trifluoromethyl 1-tosylimidazol-5-ylmethyl ketone | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=NC=C1CC(=O)C(F)(F)F | C13H11F3N2O3S
